US05012013
A glycerol-ethylene oxide-propylene oxide mixed oxyalkylate is prepared using SbCl5 catalysis by first charging a stirred autoclave with 92 g (1.0 mol) of dry glycerol and admixing, under an atmosphere of N2, 1.3 g of SbCl5 as catalyst at 40° to 60° C. To this mixture is metered in a mixture of 264 g of ethylene oxide (6.0 mol) and 264 g of propylene oxide (4.5 mol) at 60° to 80° C. in the course of 5 hours. The oxyalkylation reaction is further carried out as in Example 1.

reactant | glycerol | 1.0 mol, 92 g | OCC(O)CO | C3H8O3
reactant | ethylene oxide | 6.0 mol, 264 g | C1CO1 | C2H4O
reactant | propylene oxide | 4.5 mol, 264 g | C1C(C)O1 | C3H6O
product | glycerol ethylene oxide propylene oxide | OCC(O)CO.C1CO1.C1C(C)O1 | InChI=1S/C3H8O3.C3H6O.C2H4O/c4-1-3(6)2-5;1-3-2-4-3;1-2-3-1/h3-6H,1-2H2;3H,2H2,1H3;1-2H2
